US07528136B2
d) 2-[4-(4-Amino-1-benzyl-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile
{1-Benzyl-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidine-3-yl}carbamic acid tert-butyl ester (2 g, 4 mmol) was dissolved in 15 mL DCM/CF3COOH (2:1), stirred overnight. After removal of solvent, the residue was treated with saturated NaHCO3, extracted with EA (2×100 mL). The organic layer was dried over Na2SO4, concentrated to afforded title product 2-[4-(4-amino-1-benzyl-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile 1.6 g (100%) as brown oil. MS m/e=390.2 [M+H]+.

reactant | {1-Benzyl-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidine-3-yl}carbamic acid tert-butyl ester | 4 mmol, 2 g | C(C)(C)(C)OC(NC1CN(C(C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)CC1=CC=CC=C1)=O | C28H35N5O3
solvent | DCM CF3COOH | 15 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 2-[4-(4-amino-1-benzyl-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile | 1.6 g, 100% | NC1CC(N(C1)CC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C23H27N5O
